US07579341B2
(R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-((R)-2-carboxy-pyrrolidin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 6.1 from 60 mg (0.08 mmol) (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-((R)-2-ethoxycarbonyl-pyrrolidin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 2.9 mg (0.12 mmol) LiOH.

reactant | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-((R)-2-ethoxycarbonyl-pyrrolidin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.08 mmol, 60 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1[C@H](CCC1)C(=O)OCC)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | C37H46ClF3N6O6
reactant | LiOH | 0.12 mmol, 2.9 mg | [Li+].[OH-]
product | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-((R)-2-carboxy-pyrrolidin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1[C@H](CCC1)C(=O)O)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | C35H42ClF3N6O6
